US04284574
Bis(p-(3-butoxy-2-hydroxypropyloxy)phenyl)methane
Bis(p-hydroxyphenyl)methane (303 g; 1.5 moles), butyl glycidyl ether of epoxide content 7.45 equiv./kg (402.7 g; 6 equiv.), and benzyltrimethylammonium chloride (3 g) were stirred together and heated to 100° C., at which temperature an exothermic reaction commenced. The mixture was kept at 120° C. by moderate cooling and then, when the temperature of the mixture began to fall, heating was resumed, keeping the temperature at 120° C. for 1 hour and 150° C. for 4 hours. The mixture was cooled, and its epoxide content was found to be 0.1 equiv./kg, indicating that the reaction was virtually complete.

reactant | Bis(p-hydroxyphenyl)methane | 1.5 moles, 303 g | OC1=CC=C(C=C1)CC1=CC=C(C=C1)O | C13H12O2
reactant | butyl glycidyl ether | C(C1CO1)OCCCC | C7H14O2
catalyst | benzyltrimethylammonium chloride | 3 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | Bis(p-(3-butoxy-2-hydroxypropyloxy)phenyl)methane | C(CCC)OCC(COC1=CC=C(C=C1)CC1=CC=C(C=C1)OCC(COCCCC)O)O | C27H40O6
